US05958942
4,5-Dihydro-4-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a suspension of 1.95 g (5.0 mmol) of 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylene-3,5-dione-dihydrochloride in 50 ml of acetonitrile were added 3.5 ml (25.0 mmol) of triethylamine and 8.93 g (25.0 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 66 hours at room temperature. The solvent was distilled off. To the residue was added methylene chloride. The mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate), which was recrystallized from ethyl acetate--ethanol to afford 1.32 g (63.2%, a colorless crystals) of desired compound.

reactant | 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylene-3,5-dione-dihydrochloride | 5.0 mmol, 1.95 g | Cl.Cl.N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O
reactant | triethylamine | 25.0 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 25.0 mmol, 8.93 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4,5-Dihydro-4-[1-(trifluoromethanesulfonyl)piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | FC(S(=O)(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C16H15F3N4O4S
